US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-dimethylaminobenzaldehyde (11 g) and 4-propylaniline (10 g) as starting materials, [(4-dimethylaminophenyl)methyl](4-propylphenyl)amine (17.6 g) was obtained. melting point: 74–76° C.

reactant | 4-dimethylaminobenzaldehyde | 11 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 4-propylaniline | 10 g | C(CC)C1=CC=C(N)C=C1 | C9H13N
product | [(4-dimethylaminophenyl)methyl](4-propylphenyl)amine | 17.6 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)CCC)C | C18H24N2
